US09102591B2
N-[4,4-Difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-3-methoxy-2-methyl-benzamide
From 3-methoxy-2-methylbenzoic acid and C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=443.2, tR (minutes, Method D)=0.78

reactant | 3-methoxy-2-methylbenzoic acid | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | N-[4,4-Difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-3-methoxy-2-methyl-benzamide | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CNC(C1=C(C(=CC=C1)OC)C)=O)F | C22H23F5N2O2
